US08669361B2
Following Example 231, reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate gave tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (310 mg, 80%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 5.89 (s br, 1H), 4.14 (s br, 2H), 3.81 (s, 3H), 3.73-3.67 (m, 2H), 2.37 (s br, 2H), 1.27 (s) and 1.24 (s) (9H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
product | tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 310 mg, 80% | CN1N=CC(=C1C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H20N4O4
